US04954504
The starting material 2-(2-phenylethylamino)-adenine is prepared by reacting 2-chloroadenine with excess 2-phenylethylamine at about 140°.

reactant | 2-chloroadenine | ClC1=NC(=C2NC=NC2=N1)N | C5H4ClN5
reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
product | 2-(2-phenylethylamino)-adenine | C1(=CC=CC=C1)CCNC1=NC(=C2NC=NC2=N1)N | C13H14N6
